### PR TITLE
[Merged by Bors] - chore: rename Alg{Hom,Equiv}Class.toAlg{Hom,Equiv} to Alg{Hom,Equiv}.ofClass

### PR DESCRIPTION
**Pull request by grunweg**
and rename affected lemmas accordingly.

Following item (2) in https://github.com/leanprover-community/mathlib4/issues/31365, the definition which implements the coercion from a morphism class FooHomClass to FooHoms should be called FooHom.ofClass.

This makes two more classes follow this pattern.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 1]
```diff
@@ -65,10 +65,12 @@ instance (priority := 100) toLinearEquivClass (F R A B : Type*) [CommSemiring R]
...
 This is declared as the default coercion from `F` to `A ≃ₐ[R] B`. -/
 @[coe]
-def toAlgEquiv {F R A B : Type*} [CommSemiring R] [Semiring A] [Semiring B] [Algebra R A]
-    [Algebra R B] [EquivLike F A B] [AlgEquivClass F R A B] (f : F) : A ≃ₐ[R] B :=
+def _root_.AlgEquiv.ofClass {F R A B : Type*} [CommSemiring R]
+    [Semiring A] [Semiring B] [Algebra R A] [Algebra R B] [EquivLike F A B] [AlgEquivClass F R A B]
+    (f : F) : A ≃ₐ[R] B :=
   { (f : A ≃ B), (RingEquivClass.toRingEquiv f : A ≃+* B) with commutes' := commutes f }
 
+@[deprecated (since := "2026-09-07")] alias toAlgEquiv := AlgEquiv.ofClass
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Equiv.lean]:
```suggestion
@[deprecated (since := "2026-09-07")] alias toAlgEquiv := AlgEquiv.ofClass

```

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 2]
```diff
@@ -133,9 +135,10 @@ theorem toEquiv_eq_coe : e.toEquiv = e :=
   rfl
 
 @[simp]
-protected theorem coe_coe {F : Type*} [EquivLike F A₁ A₂] [AlgEquivClass F R A₁ A₂] (f : F) :
-    ⇑(AlgEquivClass.toAlgEquiv f) = f :=
+protected theorem coe_ofClass {F : Type*} [EquivLike F A₁ A₂] [AlgEquivClass F R A₁ A₂] (f : F) :
+    ⇑(ofClass f) = f :=
   rfl
+@[deprecated (since := "2026-09-07")] alias coe_coe := AlgEquiv.coe_ofClass
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Equiv.lean]:
```suggestion

@[deprecated (since := "2026-09-07")] alias coe_coe := AlgEquiv.coe_ofClass
```

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 3]
```diff
@@ -256,17 +259,22 @@ theorem invFun_eq_symm {e : A₁ ≃ₐ[R] A₂} : e.invFun = e.symm :=
   rfl
 
 @[simp]
-theorem coe_apply_coe_coe_symm_apply {F : Type*} [EquivLike F A₁ A₂] [AlgEquivClass F R A₁ A₂]
+theorem coe_apply_ofClass_symm_apply {F : Type*} [EquivLike F A₁ A₂] [AlgEquivClass F R A₁ A₂]
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Equiv.lean]: this name is weird. why not `apply_ofClass_symm_apply`? why `coe_`? 🤔

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 4]
```diff
@@ -256,17 +259,22 @@ theorem invFun_eq_symm {e : A₁ ≃ₐ[R] A₂} : e.invFun = e.symm :=
...
     (f : F) (x : A₂) :
-    f ((AlgEquivClass.toAlgEquiv f).symm x) = x :=
+    f ((ofClass f).symm x) = x :=
   EquivLike.right_inv f x
 
 @[simp]
-theorem coe_coe_symm_apply_coe_apply {F : Type*} [EquivLike F A₁ A₂] [AlgEquivClass F R A₁ A₂]
+theorem ofClass_symm_apply_coe_apply {F : Type*} [EquivLike F A₁ A₂] [AlgEquivClass F R A₁ A₂]
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Equiv.lean]: same here, why `coe`? just `_apply` is enough?

File: Mathlib/Algebra/Algebra/Hom.lean [hunk 5]
```diff
@@ -96,9 +99,11 @@ instance algHomClass : AlgHomClass (A →ₐ[R] B) R A B where
   map_one f := f.map_one'
   commutes f := f.commutes'
 
-@[simp] lemma _root_.AlgHomClass.toLinearMap_toAlgHom {R A B F : Type*} [CommSemiring R]
+@[simp] lemma _root_.AlgHomClass.toLinearMap_ofClass {R A B F : Type*} [CommSemiring R]
     [Semiring A] [Semiring B] [Algebra R A] [Algebra R B] [FunLike F A B] [AlgHomClass F R A B]
-    (f : F) : (AlgHomClass.toAlgHom f : A →ₗ[R] B) = f := rfl
+    (f : F) : (ofClass f : A →ₗ[R] B) = f := rfl
+
+@[deprecated (since := "2026-09-07")] alias toLinearMap_toAlgHom := AlgHomClass.toLinearMap_ofClass
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Hom.lean]: I think this might be in the wrong namespace?

File: Mathlib/Algebra/Algebra/Hom.lean [hunk 6]
```diff
@@ -404,7 +411,7 @@ namespace AlgHomClass
 @[simp]
 lemma toRingHom_toAlgHom {R A B : Type*} [CommSemiring R] [Semiring A] [Semiring B] [Algebra R A]
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Hom.lean]: rename? or are you wanting to wait until you fix `RingHomClass.toRingHom`?

File: Mathlib/Algebra/Algebra/Hom.lean [hunk 7]
```diff
@@ -96,9 +99,11 @@ instance algHomClass : AlgHomClass (A →ₐ[R] B) R A B where
   map_one f := f.map_one'
   commutes f := f.commutes'
 
-@[simp] lemma _root_.AlgHomClass.toLinearMap_toAlgHom {R A B F : Type*} [CommSemiring R]
+@[simp] lemma _root_.AlgHomClass.toLinearMap_ofClass {R A B F : Type*} [CommSemiring R]
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Hom.lean]: shouldn't this be in the `AlgHom` namespace?

File: Mathlib/Algebra/Algebra/Hom.lean (hunk 6 above)
Comment (grunweg) [reply Mathlib/Algebra/Algebra/Hom.lean]: Let me rename and add a TODO - well spotted, thanks!

File: Mathlib/Algebra/Algebra/Equiv.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Algebra/Algebra/Equiv.lean]: Indeed, the original name was very weird, and I only fixed part of it. Looking more closely, the `coe_` should also go. :+1: (Same below.)

File: Mathlib/Algebra/Algebra/Hom.lean (hunk 7 above)
Comment (grunweg) [reply Mathlib/Algebra/Algebra/Hom.lean]: The lemma is about something of type `F`, which is an AlgHomClass... Do we have some policy somewhere that it should be named `AlgHom.foo`? Do similar declarations follow such a convention? (That's new to me, but I'll be happy to learn - and perhaps we can also document it at the same time.)

File: Mathlib/Algebra/Algebra/Hom.lean [hunk 8]
```diff
@@ -96,9 +99,13 @@ instance algHomClass : AlgHomClass (A →ₐ[R] B) R A B where
   map_one f := f.map_one'
   commutes f := f.commutes'
 
-@[simp] lemma _root_.AlgHomClass.toLinearMap_toAlgHom {R A B F : Type*} [CommSemiring R]
+-- TODO: is there a better name?
```
Comment (grunweg) [inline Mathlib/Algebra/Algebra/Hom.lean]: I'll also take better naming ideas than `ofClass_ofClass`...

**Comment by grunweg** [comment]
Thanks a lot for the careful reviews. Did I already say that these are great? This really makes collaboration so much more enjoyable.

File: Mathlib/Algebra/Algebra/Hom.lean (hunk 8 above)
Comment (themathqueen) [reply Mathlib/Algebra/Algebra/Hom.lean]: what was wrong with `toLinearMap_ofClass`?

File: Mathlib/Algebra/Algebra/Hom.lean (hunk 7 above)
Comment (themathqueen) [reply Mathlib/Algebra/Algebra/Hom.lean]: Hmm... I think you're right. Let's keep it in the `AlgHomClass` namespace

File: Mathlib/Algebra/Algebra/Hom.lean (hunk 8 above)
Comment (grunweg) [reply Mathlib/Algebra/Algebra/Hom.lean]: Well, the statement doesn't mention any declaration `toLinearMap` any more: the coercions involved are called `LinearMap.ofClass` and `AlgHom.ofClass`, respectively.

Comment (themathqueen) [reply Mathlib/Algebra/Algebra/Hom.lean]: Ah, right. How about `linearMapOfClass_ofClass`?

File: Mathlib/Algebra/Algebra/Equiv.lean [hunk 9]
```diff
@@ -133,10 +136,12 @@ theorem toEquiv_eq_coe : e.toEquiv = e :=
   rfl
 
 @[simp]
-protected theorem coe_coe {F : Type*} [EquivLike F A₁ A₂] [AlgEquivClass F R A₁ A₂] (f : F) :
-    ⇑(AlgEquivClass.toAlgEquiv f) = f :=
+protected theorem coe_ofClass {F : Type*} [EquivLike F A₁ A₂] [AlgEquivClass F R A₁ A₂] (f : F) :
+    ⇑(ofClass f) = f :=
   rfl
 
+@[deprecated (since := "2026-09-08")] alias coe_coe := AlgEquiv.coe_ofClass
```
Comment (themathqueen) [inline Mathlib/Algebra/Algebra/Equiv.lean]: also protected? (because why not, I guess?)

**Review by themathqueen — COMMENTED** [review]
I think all that's really left is the `AlgHomClass.ofClass_ofClass` lemma. I say `AlgHomClass.linearMapOfClass_ofClass` is fine, but maybe someone else has a better name suggestion. So

maintainer delegate?

File: Mathlib/Algebra/Algebra/Equiv.lean (hunk 9 above)
Comment (grunweg) [reply Mathlib/Algebra/Algebra/Equiv.lean]: Sure, why not. The original coe_coe name was pretty ambiguous, so protecting it made sense. The new `coe_ofClass` naming scheme might also generate ambiguity, so keeping it protected seems a sensible thing to do.

File: Mathlib/Algebra/Algebra/Hom.lean (hunk 8 above)
Comment (grunweg) [reply Mathlib/Algebra/Algebra/Hom.lean]: I've used that now. Let's see if a maintainer has another opinion!

**Comment by grunweg** [comment]
Thanks for the fast and thorough reviews, also here!

**Review by Vierkantor — APPROVED** [review]
Thank you! Looks like the suggestion in the delegation was already applied so:

bors r+
